US07713994B2
A solution of 6-(4-methylpiperazin-1-yl)-3-nitropyridin-2-amine (1.2 g, 5.0 mmol) in hydrogen fluoride.pyridine (15 mL) is cooled to 0° C. in an ice-water bath. Sodium nitrite (0.36 g, 5.2 mmol) is added in a single portion, and the mixture is stirred for 30 minutes at 0° C. The bath is removed and the mixture is heated for 15 minutes in an oil bath on a 70° C. hot plate. After cooling to room temperature, the reaction mixture is poured onto ice (50 g), neutralized with saturated aqueous sodium hydrogen carbonate solution, and basified with 10 N sodium hydroxide solution. The mixture is extracted 3× with dichloromethane, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Eighty-percent of the crude residue is purified by reverse-phase HPLC to give 6-(4-methylpiperazin-1-yl)-3-nitropyridin-2-ol.trifluoroacetic acid salt (0.18 g, 7.8%).

reactant | 6-(4-methylpiperazin-1-yl)-3-nitropyridin-2-amine | 5.0 mmol, 1.2 g | CN1CCN(CC1)C1=CC=C(C(=N1)N)[N+](=O)[O-] | C10H15N5O2
reactant | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
reactant | Sodium nitrite | 5.2 mmol, 0.36 g | N(=O)[O-].[Na+]
solvent | hydrogen fluoride | F | FH
product | 6-(4-methylpiperazin-1-yl)-3-nitropyridin-2-ol | CN1CCN(CC1)C1=CC=C(C(=N1)O)[N+](=O)[O-] | C10H14N4O3
